US06500503B2
Preparation of (3,4-Difluorophenyl)acetaldehyde
Into a 1 liter three-necked flask equipped with a stirrer and a condenser, 46.70 g (274 mmol) of 1-methoxy-2-(3,4-difluorophenyl)ethane, 685 ml of acetone and 114 ml of 3M-hydrochloric acid were charged and the mixture was heated under reflux for 2 hrs. Acetone was distilled off, and water and ether were added. An organic layer and an aqueous layer were separated, the aqueous layer was extracted with ether, the extract combined with the organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off, the solvent distilled off, the solution condensed and purified by vacuum distillation to obtain 33.29 g (78%, bp 98-100° C./16 Torr.).

reactant | 1-methoxy-2-(3,4-difluorophenyl)ethane | 274 mmol, 46.70 g | COCCC1=CC(=C(C=C1)F)F | C9H10F2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 685 ml | CC(=O)C | C3H6O
product | (3,4-Difluorophenyl)acetaldehyde | FC=1C=C(C=CC1F)CC=O | C8H6F2O
